US06355653B1
2-Phenyl-7-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine
The title compound, mp. 278-280° C., MS m/e (%): 288 (M+H+, 100), was prepared in accordance with the general method of example 22 from 3-benzenesulfonylmethyl-5-phenyl-1H-[1,2,4]triazole and 3-pyridin-2-yl-acrylonitrile.

reactant | 3-benzenesulfonylmethyl-5-phenyl-1H-[1,2,4]triazole | C1(=CC=CC=C1)S(=O)(=O)CC1=NNC(=N1)C1=CC=CC=C1 | C15H13N3O2S
reactant | 3-pyridin-2-yl-acrylonitrile | N1=C(C=CC=C1)C=CC#N | C8H6N2
product | 2-Phenyl-7-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | C1(=CC=CC=C1)C1=NN2C(C=C(C=C2N)C2=NC=CC=C2)=N1 | C17H13N5
